US04514416
To 30 ml of dried pyridine, was added 3.0 g of 5-amidino-2-hydroxybenzenesulfonic acid. To the mixture, while being cooled in ice, was slowly added dropwise 2.0 g of benzoyl chloride. After the addition, the mixture was stirred overnight at room temperature. The insolubles deposited from the reaction mixture were separated by filtration, washed with pyridine, then with water, finally with acetone, and suspended in methanol. The insolubles were removed by filtration, and ethyl ether was added to the filtrate to precipitate a colorless solid. The solid was collected by filtration and recrystallized from a methanol-ethyl ether mixture to obtain 5-amidino-2-benzoyloxybenzenesulfonic acid in colorless solid form.

reactant | 5-amidino-2-hydroxybenzenesulfonic acid | 3.0 g | C(N)(=N)C=1C=CC(=C(C1)S(=O)(=O)O)O | C7H8N2O4S
reactant | benzoyl chloride | 2.0 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | pyridine | 30 ml | N1=CC=CC=C1 | C5H5N
product | 5-amidino-2-benzoyloxybenzenesulfonic acid | C(N)(=N)C=1C=CC(=C(C1)S(=O)(=O)O)OC(C1=CC=CC=C1)=O | C14H12N2O5S
